US04200753
7-Benzylamino-4-methylcoumarin was synthesized from 3-benzylaminophenol and ethyl acetoacetate by the usual Peckmann reaction (anhydrous zinc chloride, absolute ethanol). Recrystallization from ethanol gave flat needles, m.p. 174.5°-175.5° C. The fluorescence maximum in water was 455 nm (excited 355 nm), in 10-2N HCl 458 nm. 1H nmr (60 MHz, CDCl3), δ2.36 (s, 3H, C--CH3), 4.45 (d, 2H, --CH2NH--, J=~5.5 Hz, collapses to a singlet when D2O added), 4.7-5 (1H, NH), 6.03 (s, 1H, H3), 6.57 (d, 1H H8), 6.63 (dd, 1H, H6, J56 =~9 Hz, J68 =~2 Hz), 7.45 (s, 5H, C6H5), 7.45 (d, 1H, H5, J56 =~9 Hz).

reactant | 3-benzylaminophenol | C(C1=CC=CC=C1)NC=1C=C(C=CC1)O | C13H13NO
reactant | ethyl acetoacetate | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
solvent | HCl | 10-2N | Cl | ClH
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
product | 7-Benzylamino-4-methylcoumarin | C(C1=CC=CC=C1)NC1=CC=C2C(=CC(OC2=C1)=O)C | C17H15NO2
